* AD103 Lab 00 - the same deck with W and L in METRES. This one fails.
*
* Run it with "make wrong-units". It is meant to fail, and the failure is the
* lesson: read what ngspice says, then compare this file with nmos_op.spice.
*

* --- models -----------------------------------------------------------------
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

* --- devices ----------------------------------------------------------------
* The only change from nmos_op.spice is the "u" on L and W below.
XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=0.15u W=1u nf=1 m=1

* --- sources ----------------------------------------------------------------
Vgs g 0 1.8
Vds d 0 1.8

* --- analysis ---------------------------------------------------------------
.control
op
print i(Vds)
.endc
.end
